* LVS wrapper

* Device subcircuits
*
.subckt sg13_lv_nmos s g d b params: l=0.13e-6 w=0.15e-6
Mtrans s g d b sg13_lv_nmos l=l w=w
.ends sg13_lv_nmos

.subckt sg13_lv_pmos s g d b params: l=0.13e-6 w=0.15e-6
Mtrans s g d b sg13_lv_pmos l=l w=w
.ends sg13_lv_pmos

* Library cells
*
.include "../spice/SRAMBlocksTest_nopadring.spi"

